US06509335B1
Alternative Procedure for Preparation of 2-(3-Cyanophenyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one
To a solution of 2-(3-bromophenyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one (I7) (3.00 g, 9.87 mmol) in DMF (20 mL) was added Zinc cyanide (0.68 g, 5.79 mmol) and then tetrakistriphenylphosphine palladium (0) (0.96 g, 8 mol %). The degassed solution was heated at 100° C. for 5 hours, cooled to room temperature, and then treated with water (50 mL). The product was extracted into ethyl acetate (2×100 mL), washed with brine (50 mL), dried over MgSO4, and then purified by silica gel chromatography, eluant 50% ethyl acetate in hexane. This process affords the title compound (1.866 g, 76%) that was recrystallized from ethanol/water.

reactant | 2-(3-bromophenyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one | 9.87 mmol, 3.00 g | BrC=1C=C(C=CC1)C1OC2=C(NC1=O)C=CC=C2 | C14H10BrNO2
reactant | water | 50 mL | O | H2O
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | Zinc cyanide | 5.79 mmol, 0.68 g | [C-]#N.[Zn+2].[C-]#N
product | 2-(3-Cyanophenyl)-3,4-dihydro-2H-1,4-benzoxazin-3-one | 1.866 g, 76% | C(#N)C=1C=C(C=CC1)C1OC2=C(NC1=O)C=CC=C2 | C15H10N2O2
